US06713474B2
b) 2-(3-Chloro-4-phenoxyphenyl)-4,4,5,5-tetrametyl-1,3,2-dioxaborolane
The title compound (472 mg, 81%) was prepared from 4-bromo-2-chloro-1-phenoxybenzene (500 mg, 1.77 mmol) in a similar manner to that described for the preparation 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzonitrile: 1H NMR (DMSO-d6, 400 MHz) δ 7.75(s, 1H), 7.60 (d, 1H), 7.42(t, 2H), 7.21(t, 1H), 7.02 (m, 3H), 1.30(s, 12H); RP-HPLC (Hypersil HS, 5 μm, 100 A 4.6×250 mm; 25%-100% acetonitrile—0.05 M ammonium acetate over 10 min, 1 ml/min) tr 15.53 min.

reactant | 4-bromo-2-chloro-1-phenoxybenzene | 1.77 mmol, 500 mg | BrC1=CC(=C(C=C1)OC1=CC=CC=C1)Cl | C12H8BrClO
reactant | 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzonitrile | O(C1=CC=CC=C1)C1=C(C#N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H20BNO3
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | 2-(3-Chloro-4-phenoxyphenyl)-4,4,5,5-tetrametyl-1,3,2-dioxaborolane | 472 mg, 81% | ClC=1C=C(C=CC1OC1=CC=CC=C1)B1OC(C(O1)(C)C)(C)C | C18H20BClO3
